US06933389B2
Pantoprazole freebase (25 grams) was dissolved in a solution of ethyl acetate (50 ml) and aqueous sodium hydroxide solution (2.7 grams in 5 ml of water) and stirred at a temperature of 40-50° C. till the clear solution results. Methyl tertiary butyl ether (250 ml) was added to the reaction mixture and stirred for about 3-4 hours to crystallize the solid mass. The separated solid mass was filtered, washed with methyl tertiary butyl ether (50 ml) and suck dried under vacuum. The wet solid was further dried at a temperature of 40-50° C. to afford crystalline Form-I of Pantoprazole sodium sesquihydrate.

reactant | Pantoprazole | 25 grams | COC=1C=CN=C(C1OC)C[S+](C=2NC=3C=CC(=CC3N2)OC(F)F)[O-] | C16H15F2N3O4S
reactant | sodium hydroxide | 5 ml, 2.7 grams | [OH-].[Na+]
reactant | Methyl tertiary butyl ether | 250 ml | C(C)(C)(C)OC | C5H12O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | Pantoprazole sodium sesquihydrate | COC1=C(C(=NC=C1)CS(=O)C2=NC3=C([N-]2)C=CC(=C3)OC(F)F)OC.COC1=C(C(=NC=C1)CS(=O)C2=NC3=C([N-]2)C=CC(=C3)OC(F)F)OC.O.O.O.[Na+].[Na+] | InChI=1S/2C16H14F2N3O4S.2Na.3H2O/c2*1-23-13-5-6-19-12(14(13)24-2)8-26(22)16-20-10-4-3-9(25-15(17)18)7-11(10)21-16;;;;;/h2*3-7,15H,8H2,1-2H3;;;3*1H2/q2*-1;2*+1;;;
